US07094801B2
4-{3E-[2,4-Dimethoxy-5-(2H-tetrazol-5-yl)-phenyl]-acryloyl}-benzoic acid
The title compound was prepared by condensing 2,4-dimethoxy-5-(2H-tetrazol-5-yl)-benzaldehyde (Ex-75A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, 19% yield, mp 218° C. (dec). 1H-NMR (DMSO-d6) δ 8.58 (s, 1H), 8.20 (d, 2H), 8.03 (m, 3H), 7.85 (d, 1H), 6.90 (s, 1H), 4.04 (s, 3H), 4.02 (s, 3H). MS m/z=422 ([M+CH3CN+H]+, 100%). HRMS m/z: calc. 381.1199, found 381.1184.

reactant | 2,4-dimethoxy-5-(2H-tetrazol-5-yl)-benzaldehyde | COC1=C(C=O)C=C(C(=C1)OC)C=1N=NNN1 | C10H10N4O3
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
solvent | CH3CN | CC#N | C2H3N
product | 4-{3E-[2,4-Dimethoxy-5-(2H-tetrazol-5-yl)-phenyl]-acryloyl}-benzoic acid | 19% yield | COC1=C(C=C(C(=C1)OC)C=1N=NNN1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1 | C19H16N4O5
